US05652239
a. 4,4'-Dichlorohydrazobenzene
A suspension of 4-chloronitrobenzene (2.5 g, 15.9 mM) in 50% aqueous NaOH (1 mL, 12.5 mM) was warmed to 60° C. Zinc dust (3 g, 46 mM) was added in portions at such a rate as to keep the reaction temperature below 80° C. After all the zinc had been added, the reaction mixture was diluted with 20% NaOH (6 mL, 30 mM) and water (10 mL). A second portion of zinc dust (4 g, 62 mM) was then added in one portion. The resulting reaction mixture was stirred at 80° C. for approximately 18 hrs. The mixture was cooled to room temperature, the solid was filtered, and washed several times with ether. The combined filtrates were concentrated and purified by flash column chromatography. This afforded the title compound as a yellow solid (1.25 g, 5 mM) which contained approximately 25% of an impurity. This mixture was used directly in the next step. NMR (d6 -DMSO, 250 MHz): 7.14 (d, J=9 Hz, 4H), 6.76 (d, J=9 Hz, 4H), 5.63 (br s, 2H).

reactant | 4-chloronitrobenzene | 15.9 mM, 2.5 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | NaOH | 12.5 mM, 1 mL | [OH-].[Na+]
solvent | NaOH | 30 mM, 6 mL | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
catalyst | Zinc | 46 mM, 3 g | [Zn] | Zn
catalyst | zinc | 62 mM, 4 g | [Zn] | Zn
product | 4,4'-Dichlorohydrazobenzene | 5 mM, 1.25 g | ClC1=CC=C(C=C1)NNC1=CC=C(C=C1)Cl | C12H10Cl2N2
